US05470980
1-Methoxy-2,2,6,6-tetramethylpiperidin-4-yl Cloroformate
The title compound is prepared by reacting 1-methoxy-2,2,6,6-tetramethyl-piperidin-4-ol (1 mole) with methylchloroformate (1 mole).

reactant | 1-methoxy-2,2,6,6-tetramethyl-piperidin-4-ol | 1 mole | CON1C(CC(CC1(C)C)O)(C)C | C10H21NO2
reactant | methylchloroformate | 1 mole | COC(=O)Cl | C2H3ClO2
product | 1-Methoxy-2,2,6,6-tetramethylpiperidin-4-yl Cloroformate | ClC(=O)OC1CC(N(C(C1)(C)C)OC)(C)C | C11H20ClNO3
